US04562281
To the same flask as used in Example 1 were added 340.51 g (1.0 mole) of 2,2'-methylenebis(6-tert-butyl-4-methylphenol), 86.41 g (1.0 mole) of 98.5% methacrylic acid, 500 g of toluene and 242.86 g (2.4 moles) of triethylamine. After replacing the air in the container with nitrogen, 229.14 g (1.2 moles) of o-toluenesulfonyl chloride was added dropwise with stirring. After completion of the dropwise addition, the reaction solution was kept at 90° C. for 1 hour. Thereafter, the organic layer was washed with water until it became neutral, and toluene was removed under reduced pressure. The residue was recrystallized from n-hexane to obtain 384.1 g of a white crystalline 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monomethacrylate having a melting point of 144° to 146° C. Yield, 94%.

reactant | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) | 1.0 mole, 340.51 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | methacrylic acid | 1.0 mole, 86.41 g | C(C(=C)C)(=O)O | C4H6O2
reactant | triethylamine | 2.4 moles, 242.86 g | C(C)N(CC)CC | C6H15N
reactant | o-toluenesulfonyl chloride | 1.2 moles, 229.14 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
product | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monomethacrylate | 384.1 g | C(C(=C)C)(=O)OC1=C(C=C(C=C1C(C)(C)C)C)CC1=C(C(=CC(=C1)C)C(C)(C)C)O | C27H36O3
